US05663200
5f) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-{[p-(2-phenylethyl)phenyl]methyl}hexanoic acid
5.08 g (9.81 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2-phenylethyl)phenyl]methyl}hexanoic acid in 22 ml of DMF are silylated, under a protective gas, with 6.80 g (45.1 mmol) of tert-butyldimethylchlorosilane and 5.48 g (80.4 mmol) of imidazole at RT for 20 h. The reaction mixture is poured onto 500 ml of ice-water, and this mixture is extracted 3× with ethyl acetate. The organic phases are washed with 10% citric acid solution, 2× water and saline, dried with Na2SO4 and evaporated. The residue is dissolved in 119 ml of methanol and 46 ml of THF, and this solution is treated with 8.1 g of potassium carbonate and 46 ml of water, and then stirred at RT for 17 h. The reaction mixture is subsequently poured onto ice-cold 10% citric acid solution, and this mixture is extracted 3× with ethyl acetate. The organic phases are washed with 2 portions of water and saline, dried with Na2SO4 and evaporated. Column chromatography (SiO2, hexane/ethyl acetate 2:1→1:1→ethyl acetate) results in the pure title compound: TLC Rf (D)=0.22; tRet (II)=23.3 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2-phenylethyl)phenyl]methyl}hexanoic acid | 9.81 mmol, 5.08 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)CCC1=CC=CC=C1)O)CC1=CC=CC=C1 | C32H39NO5
reactant | tert-butyldimethylchlorosilane | 45.1 mmol, 6.80 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 80.4 mmol, 5.48 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-{[p-(2-phenylethyl)phenyl]methyl}hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)CCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C38H53NO5Si
